US07884207B2
A mixture of 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride (0.80 g) and 1N sodium hydroxide (8 mL) was sonicated for 2 minutes. A solid was isolated by filtration, washed with water, and dried. This procedure was repeated and the material was dried under high vacuum at 120° C. to provide 0.61 g of 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol as a tan powder, mp 232.0-233.0° C. Anal. Calcd for C17H22N6O C, 62.56; H, 6.79; N, 25.75. Found: C, 62.43; H, 7.04; N, 25.78.

reactant | 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol dihydrochloride | 0.80 g | Cl.Cl.NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)CC
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
product | 4-[(4-amino-2-ethyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]piperidin-4-ol | 0.61 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCNCC2)O)CC | C17H22N6O
